US07238714B2
Step 3. Methyl 5-chloro-2-[(5-fluoropyridin-2-yl)oxy]benzoate
To a solution of sodium nitrite (224 mg, 3.25 mmol) in water (5 mL) was added methyl 2-[(5-aminopyridin-2-yl)oxy]-5-chlorobenzoate (907 mg, 3.25 mmol) and 48% tetrafluoroboric acid in water (5 mL) at 0° C. The reaction mixture was stirred for 5 h. The resulting precipitate was collected by filtration and dried under reduced pressure at room temperature. To the solids of tetrafluoroborate were added chlorobenzene (5 mL) and the mixture was heated at 140° C. for 40 min. The reaction mixture was diluted with ethyl acetate. The solution was washed with brine and concentrated. The residue was purified by flush column chromatography on silica gel eluting with hexane/ethyl acetate (8/1) to afford 382 mg (42%) of the title compound: 1H-NMR (CDCl3) δ 7.98 (1H, d, J=2.8 Hz), 7.90 (1H, d, J=3.1 Hz), 7.59–7.41 (2H, m), 7.14 (1H, d, J=8.6 Hz), 6.99 (1H, dd, J=8.9, 3.5 Hz), 3.72 (3H, s).

reactant | sodium nitrite | 3.25 mmol, 224 mg | N(=O)[O-].[Na+]
reactant | methyl 2-[(5-aminopyridin-2-yl)oxy]-5-chlorobenzoate | 3.25 mmol, 907 mg | NC=1C=CC(=NC1)OC1=C(C(=O)OC)C=C(C=C1)Cl | C13H11ClN2O3
reactant | tetrafluoroboric acid | F[B-](F)(F)F.[H+]
solvent | water | 5 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | Methyl 5-chloro-2-[(5-fluoropyridin-2-yl)oxy]benzoate | 382 mg, 42% | ClC=1C=CC(=C(C(=O)OC)C1)OC1=NC=C(C=C1)F | C13H9ClFNO3
